US06977263B2
A. 4-(3-Cyano-phenyl)-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester.
A solution of 3-Bromobenzonitrile (0.48 g, 2.64 mmol) in THF (20 mL) was stirred under nitrogen at −78° C. To this was added dropwise a solution of 2.0M nBuLi in hexanes (1.38 mL, 2.72 mmol). The solution was allowed to warm to −15° C. over 1.5 hours. The solution was recooled to −78° C. and a solution of N-Boc-4-piperidone (0.53 g, 2.64 mmol) in THF (5 mL) was added dropwise. The reaction mixture was allowed to warm to −10° C. and stirred at this temperature for three hours. The reaction was quenched with ½ saturated ammonium chloride solution (30 mL) and stirred 15 minutes. The THF was removed by evaporation and the residue extracted with methylene chloride (3×50 mL). The organic extracts were combined, dried over sodium sulfate, evaporated to give an orange oil which was purified by flash chromatography 3:5:2 methylene chloride: heptane: ethyl acetate to give the title compound (0.30 g) as a clear oil. 1H NMR [(CDCl3]: δ 7.82 (s, 1H), 7.72 (d, 1H), 7.58 (d, 1H), 7.55-7.42 (m, 1H), 4.20-3.95 (m, 2H), 3.35-3.10 (m, 2H), 2.08-1.83 (m, 2H), 1.80-1.66 (m, 2H), 1.51 (s, 9H).

reactant | 3-Bromobenzonitrile | 2.64 mmol, 0.48 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | nBuLi | 2.0M | [Li]CCCC
reactant | N-Boc-4-piperidone | 2.64 mmol, 0.53 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(3-Cyano-phenyl)-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester | 0.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=CC=C1)C#N | C17H22N2O3
